US05807880
1H-1,2,3-Triazole (1.64 g) was added to 2-(1-chloroethyl)-9H-fluorene (1.1 g), followed by heating at 120° C. for 30 minutes. After cooling, water was added and the mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated and then the thus obtained residue was subjected to silica gel column chromatography. Crude crystals obtained from the chloroform eluent were recrystallized from ethyl acetate to obtain 0.62 g of 1-[1-(9H-fluoren-2-yl)ethyl]-1H-1,2,3-triazole.

reactant | 1H-1,2,3-Triazole | 1.64 g | N1N=NC=C1 | C2H3N3
reactant | 2-(1-chloroethyl)-9H-fluorene | 1.1 g | ClC(C)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H13Cl
solvent | water | O | H2O
product | 1-[1-(9H-fluoren-2-yl)ethyl]-1H-1,2,3-triazole | 0.62 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C(C)N1N=NC=C1 | C17H15N3
